US04198406
(a) 7-Amino-3-(1-N-methylcarbamoylmethyl-1H-tetrazol-5-ylthio) methylceph-3-em-4-carboxylic acid
7-ACA and N-methyl-5-mercapto-1H-tetrazol-1-ylacetamide were reacted as in example 23a to give the title compound, 44.0% yield; δ(CF3CO2H), 3.05 (3H,d, J5 Hz, --CONHCH3), 3.92 (2H,s, C2 methylene), 4.63 (2H,bs, --CH2S--), 5.47 (4H,s, --CH2CO-- and β-lactam protons), 7.5-7.8 (1H,m, --CONH--).

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | N-methyl-5-mercapto-1H-tetrazol-1-ylacetamide | CNC(CN1N=NN=C1S)=O | C4H7N5OS
product | 7-Amino-3-(1-N-methylcarbamoylmethyl-1H-tetrazol-5-ylthio) methylceph-3-em-4-carboxylic acid | 44.0% yield | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(NC)=O)C(=O)O)C1=O | C12H15N7O4S2
